US04753953
10-(cis-3-t-Butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid
A mixture of 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid (0.5 g), anhydrous dimethyl sulfoxide (10 ml) and cis-3-t-butoxycarbonylamino-4-methylpyrrolidine (0.54 g) was stirred for 2 hours at 90°-100° C. and then concentrated. To the residue was added methanol and the resulting precipitate was collected by filtration and then washed with cold methanol to give the title compound (0.58 g) as yellowish powder, mp 219°-220° C.

reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 0.5 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | cis-3-t-butoxycarbonylamino-4-methylpyrrolidine | 0.54 g | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C | C10H20N2O2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 10-(cis-3-t-Butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 0.58 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C23H28FN3O6
